US08912186B2
To a solution of 1-(4-chlorophenyl)-3-phenylprop-2-en-1-one (1 g) in toluene (10 ml) magnesium oxide (0.41 g) and diethyl malonate (0.62 ml) were added. The slurry was stirred at rt for 2 h. The inorganics were removed by suction filtration and washed with dichloromethane. The filtrate was concentrated in vacuo and the residue was recrystallised from diethyl ether/hexanes to provide diethyl 2-[3-(4-chlorophenyl)-3-oxo-1-phenylpropyl]malonate (1.5 g) as colourless solid.

reactant | 1-(4-chlorophenyl)-3-phenylprop-2-en-1-one | 1 g | ClC1=CC=C(C=C1)C(C=CC1=CC=CC=C1)=O | C15H11ClO
reactant | diethyl malonate | 0.62 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | toluene | 10 ml, 0.41 g | C1(=CC=CC=C1)C | C7H8
product | diethyl 2-[3-(4-chlorophenyl)-3-oxo-1-phenylpropyl]malonate | 1.5 g | ClC1=CC=C(C=C1)C(CC(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC)=O | C22H23ClO5
